US07091227B2
N1-[3-(2-{[(Ethylamino)Carbonyl]amino}-1,3-benzothiazol-6-yl)-3-oxopropyl]-2,5-difluorobenzamide
Similar to the synthesis of Example 249, a mixture of 1-(6-(3-aminopropanoyl)-2-benzothiazolyl)-3-ethylurea, triethylamine and 2,5-difluorobenzoyl chloride in DMF was reacted to give the desired compound 0.019 g (22%). LC/MS 433.0 (M+1); LC retention time 2.94 min.

reactant | 1-(6-(3-aminopropanoyl)-2-benzothiazolyl)-3-ethylurea | NCCC(=O)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C13H16N4O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2,5-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N1-[3-(2-{[(Ethylamino)Carbonyl]amino}-1,3-benzothiazol-6-yl)-3-oxopropyl]-2,5-difluorobenzamide | 0.019 g, 22% | C(C)NC(=O)NC=1SC2=C(N1)C=CC(=C2)C(CCNC(C2=C(C=CC(=C2)F)F)=O)=O | C20H18F2N4O3S
